US09376422B2
Step 7: 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(piperidin-4-yl)amino)benzamide
A stirred solution of tert-butyl 4-((5-chloro-3-(((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methylphenyl)(methyl)amino)piperidine-1-carboxylate (0.2 g, 0.632 mmol) in DCM (5 mL) was cooled to 0° C. and TFA (0.15 mL) was added to it. Reaction mass was stirred at room temperature for 1 h. On completion, reaction was concentrated to dryness. Residue was purified by solvent washings to afford the desired compound (0.14 g, 53%) as its TFA salt. LCMS: 417.25 (M+1)+; HPLC: 96.16% (@ 254 nm) (Rt; 4.677; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.47 (s, 1H), 8.49 (bs, 1H), 8.20 (t, 1H), 8.18 (bs, 1H), 7.19 (s, 1H), 6.96 (s, 1H), 5.86 (s, 1H), 4.25 (d, 2H, J=4.4 Hz), 3.25 (d, 2H, J=12 Hz), 3.08 (m, 1H), 2.88 (bs, 2H), 2.56 (s, 3H), 2.18 (s, 3H), 2.17 (s, 3H), 2.10 (s, 3H), 1.76 (bs, 4H).

reactant | tert-butyl 4-((5-chloro-3-(((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methylphenyl)(methyl)amino)piperidine-1-carboxylate | 0.632 mmol, 0.2 g | ClC=1C=C(C(=C(C1)N(C1CCN(CC1)C(=O)OC(C)(C)C)C)C)C(NCC=1C(NC(=CC1C)C)=O)=O | C27H37ClN4O4
reactant | TFA | 0.15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(piperidin-4-yl)amino)benzamide | 0.14 g, 53% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCNCC1)C | C22H29ClN4O2
